US07528120B2
To a solution of 4-[2-(4-benzyloxy-phenyl)-ethyl]-2,2-dimethyl-4-(2-nitro-benzoyloxymethyl)-oxazolidine-3-carboxylic acid tert-butyl ester (80 mg, 0.13 mmol) in methanol (1 ml) and THF (1 ml) is added K2CO3 (1.5 mg, 0.076 eq), the reaction mixture is stirred overnight at room temperature. The reaction mixture is concentrated to dryness and 4-[2-(4-benzyloxy-phenyl)-ethyl]-4-hydroxymethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (51 mg, 85%) is isolated as a white solid after flash chromatography (Ethyl acetate/Hexane (1/4)).

reactant | 4-[2-(4-benzyloxy-phenyl)-ethyl]-2,2-dimethyl-4-(2-nitro-benzoyloxymethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | 0.13 mmol, 80 mg | C(C)(C)(C)OC(=O)N1C(OCC1(COC(C1=C(C=CC=C1)[N+](=O)[O-])=O)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)C | C33H38N2O8
reactant | K2CO3 | 1.5 mg, 0.076 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 1 ml | CO | CH4O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-[2-(4-benzyloxy-phenyl)-ethyl]-4-hydroxymethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 51 mg, 85% | C(C)(C)(C)OC(=O)N1C(OCC1(CO)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)C | C26H35NO5
